US06982348B2
A mixture of ethyl 3-(4-fluorophenyl)-3-oxopropionate (20 g, 95.1 mmol), 4-methoxybenzyl chloride (11.6 ml, 85.6 mmol), potassium carbonate (26.3 g, 0.19 mol) and acetonitrile (300 ml) was stirred at 60° C. for 6 hrs. The reaction solution was concentrated under reduced pressure, water (300 ml) was added, and the mixture was extracted with ethyl acetate (300 ml×2). The extract was washed with water, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=10:1-5:1) to give ethyl 3-(4-fluorophenyl)-3-oxo-2-(4-methoxybenzyl)propionate (26.6 g, 85%) as an oil.

reactant | ethyl 3-(4-fluorophenyl)-3-oxopropionate | 95.1 mmol, 20 g | FC1=CC=C(C=C1)C(CC(=O)OCC)=O | C11H11FO3
reactant | 4-methoxybenzyl chloride | 85.6 mmol, 11.6 ml | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | potassium carbonate | 0.19 mol, 26.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | ethyl 3-(4-fluorophenyl)-3-oxo-2-(4-methoxybenzyl)propionate | 26.6 g, 85% | FC1=CC=C(C=C1)C(C(C(=O)OCC)CC1=CC=C(C=C1)OC)=O | C19H19FO4
